US05973156
b) 5-(4-Pyridyl)-1-pentanol
5-(4-Pyridyl)pent-4-yn-1-ol (3.41 g) prepared according to the procedure described above was dissolved in ethanol (30 ml) and hydrogenated over palladium hydroxide catalyst (0.300 g) at 45 psi for 3 h. The catalyst was filtered and the ethanol evaporated in vacuo to yield the title product as a colourless oil (3.2 g). 1H NMR (250 MHz, CDCl3) δ 1.40-1.45 (2H, m), 1.47-1.80 (4H, m), 2.00 (1H br s), 2.62 (2H, t), 3.64 (2H, t), 7.10 (2H, d), 8.45 (2H, d).

reactant | 5-(4-Pyridyl)pent-4-yn-1-ol | 3.41 g | N1=CC=C(C=C1)C#CCCCO | C10H11NO
solvent | ethanol | 30 ml | C(C)O | C2H6O
catalyst | palladium hydroxide | 0.300 g | [OH-].[Pd+2].[OH-]
product | 5-(4-Pyridyl)-1-pentanol | 3.2 g | N1=CC=C(C=C1)CCCCCO | C10H15NO
